US07323472B2
8-(1-Ethyl-propyl)-4-(4-fluoro-2-methyl-phenyl)-2-methoxy-8H-pyrido[2,3-d]pyrimidin-7-one
Prepared as described above in Example 98 starting from (E)-3-[4-(1-ethyl-propylamino)-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidin-5-yl]-acrylic acid methyl ester and sodium methoxide to afford the title compound 8-(1-ethyl-propyl)-4-(4-fluoro-2-methyl-phenyl)-2-methoxy-8H-pyrido[2,3-d]pyrimidin-7-one. 1H-NMR (CDCl3) δ 0.89 (m, 6H), 2.02 (m, 2H), 2.22 (s, 3H), 2.33 (m, 2H), 3.39 (m, 2H), 4.09 (s, 3H), 5.35 (m, 0.5H), 5.62 (m, 0.5H), 6.41 (br d, 1H, J=9.6 Hz), 7.03 (m, 2H), 7.28 (m, 2H). LC MS (m/e)=356 (MH+). Rt=2.50 min.

reactant | (E)-3-[4-(1-ethyl-propylamino)-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidin-5-yl]-acrylic acid methyl ester | COC(\C=C\C=1C(=NC(=NC1C1=C(C=C(C=C1)F)C)SC)NC(CC)CC)=O | C21H26FN3O2S
reactant | sodium methoxide | C[O-].[Na+]
product | 8-(1-ethyl-propyl)-4-(4-fluoro-2-methyl-phenyl)-2-methoxy-8H-pyrido[2,3-d]pyrimidin-7-one | C(C)C(CC)N1C(C=CC2=C1N=C(N=C2C2=C(C=C(C=C2)F)C)OC)=O | C20H22FN3O2
